US06335344B1
A mixture of 7H-[1,3]dioxolo[4,5-g]quinazolin-8-one (0.550 g, 2.78 mmol) and phosphorus pentachloride (0.800 g, 3.84 mmol) in 3 mL phosphorus oxychloride was heated to a gentle reflux for 2.5 hours. Solvent was removed in vacuo, and azeotroped with toluene. Residue was dissolved in ethyl acetate and washed with 5% sodium bicarbonate solution and then filtered, and then solvent was removed in vacuo to give 8-chloro-[1,3]dioxolo[4,5-g]quinazoline (0.400 g, 74%).

reactant | 7H-[1,3]dioxolo[4,5-g]quinazolin-8-one | 2.78 mmol, 0.550 g | O1COC=2C1=CC=1C(NC=NC1C2)=O | C9H6N2O3
reactant | phosphorus pentachloride | 3.84 mmol, 0.800 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | phosphorus oxychloride | 3 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 8-chloro-[1,3]dioxolo[4,5-g]quinazoline | 0.400 g, 74% | ClC1=NC=NC=2C=C3C(=CC12)OCO3 | C9H5ClN2O2
